US06828460B2
4-(2,4-Dihydroxyphenyl)-3-cyclohexen-1-one
A round bottomed flask equipped with magnetic stirrer was charged with 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]dec-7-ene (1.50 g, 4.24 mmol) and methanol (30 ml). To the stirred solution was added aqueous hydrochloric acid (30 ml, 1.0M) and the solution was heated to reflux temperature for 1.5 hr. After cooling to room temperature, saturated aqueous sodium bicarbonate (20 ml) was added and the layers separated. The aqueous layer was extracted with ethyl acetate (4×20 ml) and the combined organic layers washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:3, v/v) to afford the title compound as a yellow solid (323 mg, 37%). m/z (ES−) 203 (M−H+); δH(CD3OD) 2.62 (2H, t), 2.86 (2H, t), 3.04 (2H, m), 5.78 (1H, m), 6.28 (1H, m), 6.32 (1H, m), 6.96 (1H, d).

reactant | 8-[2,4-bis(methoxymethoxy)phenyl]-1,4-dioxaspiro[4.5]dec-7-ene | 4.24 mmol, 1.50 g | COCOC1=C(C=CC(=C1)OCOC)C1=CCC2(OCCO2)CC1 | C18H24O6
reactant | hydrochloric acid | 1.0M, 30 ml | Cl | ClH
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 4-(2,4-Dihydroxyphenyl)-3-cyclohexen-1-one | 323 mg, 37% | OC1=C(C=CC(=C1)O)C1=CCC(CC1)=O | C12H12O3
